* Z:\mnt\design.r\spice\examples\ADM7170-5.0.asc
C2 N001 0 1n
V1 IN 0 5.5
Rload OUT 0 12.5
C1 OUT 0 4.7µ
XU1 IN OUT IN N001 OUT 0 ADM7170
.tran 5m startup
.lib ADM7170.sub
.backanno
.end
